US07345070B2
2-(3,4-Dimethyl-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid
The representative parallel synthesis procedure (B) was used to prepare the title compound from 2-(3,4-dimethylphenoxy)-3-(4-hydroxyphenyl)-2-methylpropionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-(1-methylcyclohexyl)-oxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3) δ 7.10 (d, 2H, J=8.60 Hz), 6.92 (d, 1H, J=8.60 Hz), 6.73 (d, 2H, J=8.99 Hz), 6.64 (d, 1H, J=2.35 Hz), 6.57 (dd, 1H, J=8.21 Hz, J=3.13 Hz), 4.06 (t, 2H, J=6.25 Hz), 3.14 (d, 1H, J=14.08 Hz), 3.04 (d, 1H, J=14.08 Hz), 2.85 (t, 2H, J=6.25 Hz), 2.19 (s, 3H), 2.13 (s, 3H), 2.12 (s, 3H), 2.07-2.01 (m, 2H), 1.53-1.28 (m, 8H), 1.36 (s, 3H), 1.20 (s, 3H); MS (ES+) calcd for C31H40NO5: Found m/e 506.3 (M+1, 100%).

reactant | 2-(3,4-dimethylphenoxy)-3-(4-hydroxyphenyl)-2-methylpropionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=C(C=C1)C)C)=O | C20H24O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-(1-methylcyclohexyl)-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1(CCCCC1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO4S
product | 2-(3,4-Dimethyl-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid | CC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2(CCCCC2)C)C)C=CC1C | C31H39NO5
